US04659727
A solution of 2-amino-3-methylpyridine (53.9 g) and anhydrous hydrogen chloride (40 g) in anhydrous ethanol (960 ml) was treated with 1,1,3,3-tetramethoxypropane and heated at reflux for 6 hours. The solution was then concentrated to dryness under reduced pressure and the residue was triturated with diethyl ether, to give crude 9-methylpyrido[1,2-a]pyrimidinium chloride (76 g). This crude salt was dissolved in water (300 ml) and treated with sodium bicarbonate (35.4 g). The mixture was stirred at room temperature for one hour and then it was filtered, washed with water and recrystallised from water, to give 1-formyl-2-(3-methylpyrid-2-ylamino)ethene (32.7 g), m.p. 129°-131° C. (with decomposition).

reactant | 2-amino-3-methylpyridine | 53.9 g | NC1=NC=CC=C1C | C6H8N2
reactant | hydrogen chloride | 40 g | Cl | ClH
reactant | 1,1,3,3-tetramethoxypropane | COC(CC(OC)OC)OC | C7H16O4
reactant | sodium bicarbonate | 35.4 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 960 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | 1-formyl-2-(3-methylpyrid-2-ylamino)ethene | 32.7 g | C(=O)C=CNC1=NC=CC=C1C | C9H10N2O
